US09359359B2
Step 3 Synthesis of 1-(3-hydroxybutyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione
To a solution of 1-(3-hydroxybutyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione (1.1 g, 2.02 mmol) in THF (5 mL) was added TBAF (5 mL, 1 mmol/L in THF) and the mixture was heated at reflux for 16 h. The mixture was cooled and diluted with ethyl acetate. The organic phase was washed with brine and saturated aqueous ammonium chloride; then it was dried and concentrated to give a crude product which was purified by silica gel chromatography eluting with DCM/methanol (45:1) to give (701 mg, 83.8% yield) as white solid. LCMS retention time 1.372 min; LCMS MH+ 415.

reactant | 1-(3-hydroxybutyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione | 2.02 mmol, 1.1 g | OC(CCN1C(N(C=2N=C(N(C2C1=O)COCC[Si](C)(C)C)OC1=CC(=CC=C1)OC(F)(F)F)C)=O)C | C23H31F3N4O6Si
reactant | TBAF | 1 mmol/L, 5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-hydroxybutyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 83.8% yield | OC(CCN1C(N(C=2N=C(NC2C1=O)OC1=CC(=CC=C1)OC(F)(F)F)C)=O)C | C17H17F3N4O5
